US08067445B2
Step 1: 2-{2′-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-propionyl chloride
To 2-{2′-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-propionic acid (0.096 g, 0.21 mmol) and triethylamine (0.04 mL, 0.26 mmol) in CH2Cl2 (2 mL) at 0° C. was added oxalyl chloride (0.02 mL, 0.26 mmol), followed by DMF (2 drops), and the reaction was stirred at 0° C. for 1.5 hours. The mixture was concentrated to give the title compound.

reactant | 2-{2′-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-propionic acid | 0.21 mmol, 0.096 g | C1(CC1)C(=O)N(CC)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)C(C(=O)O)C | C24H26F3NO4
reactant | triethylamine | 0.26 mmol, 0.04 mL | C(C)N(CC)CC | C6H15N
reactant | oxalyl chloride | 0.26 mmol, 0.02 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 2-{2′-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-propionyl chloride | C1(CC1)C(=O)N(CC)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)C(C(=O)Cl)C | C24H25ClF3NO3
